US06921821B2
4-(1-Benzo[1,3]dioxol-5-ylmethyl-piperidin-4-ylamino)-6-methoxy-1-methyl-1H-quinolin 2-one (V-8)
To a solution of 6-methoxy-1-methyl-4-(piperidin-4-ylamino)-1H-quinolin-2-one (300 mg, 0.8 mmol) and diisopropylethlyamine (705 uL, 4 mmol) in DMF (5 mL) was added a solution of 3,4 methylenedioxybenzyl chloride in methylene chloride (231 uL, 0.9 mmol, 50% by weight in CH2Cl2). After stirring at room temperature for 2 hours, the reaction mixture was diluted up with methylene chloride, washed with brine and dried with MgSO4. The residue was purified by flash chromatography through a silica gel column with dichloromethane and methanol (95:5 v/v) to provide the title compound (66.4 mg, 20%): 1H NMR (300 MHz, CDCl3) δ 1.58-1.72 (2H, m), 2.10-2.23 (4H, m), 2.88-2.98 (2H, m), 3.40-3.50 (1H, m), 3.48 (3H, s), 3.64 (3H, s), 4.58 (1H, bd, J=7.5), 5.75 (1H, s), 5.95 (2H, s), 6.77 (2H, s), 6.89 (1H, s), 7.25 (1H, d; J=1.89 Hz), 7.26 (1H, s), 7.40 (1H, dd, j=1.79, 8.75 Hz).

reactant | 6-methoxy-1-methyl-4-(piperidin-4-ylamino)-1H-quinolin-2-one | 0.8 mmol, 300 mg | COC=1C=C2C(=CC(N(C2=CC1)C)=O)NC1CCNCC1 | C16H21N3O2
reactant | diisopropylethlyamine | 4 mmol, 705 uL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3,4 methylenedioxybenzyl chloride | C1OC=2C=C(CCl)C=CC2O1 | C8H7ClO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.9 mmol, 231 uL | C(Cl)Cl | CH2Cl2
product | 4-(1-Benzo[1,3]dioxol-5-ylmethyl-piperidin-4-ylamino)-6-methoxy-1-methyl-1H-quinolin 2-one | 66.4 mg, 20% | O1COC2=C1C=CC(=C2)CN2CCC(CC2)NC2=CC(N(C1=CC=C(C=C21)OC)C)=O | C24H27N3O4
